US07312359B2
A solution of methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester (1.21 g, 3.07 mmol), potassium cyanide (0.799 g, 12.27 mmol) and potassium iodide (0.25 g) in 50 mL of DMF was heated to 95° C. under argon with stirring for 24 hours. The reaction mixture was cooled and poured into 500 mL of water. The aqueous mix was extracted three times with EtOAc, and the combined organic phases were washed with water, saturated brine, and dried (MgSO4). Evaporation of the solvent under reduced pressure gave an oil that was purified by elution on silica gel (hexanes:EtOAc 1:1). Removal of the solvent under reduced pressure yielded 0.950 g (2.97 mmol, 95.1% of 3-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-propionitrile as a white crystalline solid. MS: 326 (M+H)+.

reactant | methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester | 3.07 mmol, 1.21 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCOS(=O)(=O)C | C19H22O5S2
reactant | potassium cyanide | 12.27 mmol, 0.799 g | [C-]#N.[K+]
reactant | potassium iodide | 0.25 g | [I-].[K+]
reactant | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-propionitrile | 2.97 mmol, 95.1% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCC#N | C19H19NO2S
